US09127003B2
(R)-(3-Aminopiperidin-1-yl)(2-(1-(cyclopropylmethyl)-1H-pyrrolo[2,3-b]pyridin-2-yl)-7-methoxy-1-methyl-1H-benzo[d]imidazol-5-yl)methanone, hydrochloride
(R)-(3-Aminopiperidin-1-yl)(2-(1-(cyclopropylmethyl)-1H-pyrrolo[2,3-b]pyridin-2-yl)-7-methoxy-1-methyl-1H-benzo[d]imidazol-5-yl)methanone (2.2 g) was dissolved in a minimum volume of DCM and HCl (2M in diethyl ether) (2.4 ml, 4.80 mmol) added to the solution. The resulting suspension was sonicated for 2 minutes and the solution concentrated under vacuum to afford the title compound as a white solid (2.57 g)

reactant | (R)-(3-Aminopiperidin-1-yl)(2-(1-(cyclopropylmethyl)-1H-pyrrolo[2,3-b]pyridin-2-yl)-7-methoxy-1-methyl-1H-benzo[d]imidazol-5-yl)methanone | 2.2 g | N[C@H]1CN(CCC1)C(=O)C1=CC2=C(N(C(=N2)C2=CC=3C(=NC=CC3)N2CC2CC2)C)C(=C1)OC | C26H30N6O2
reactant | HCl | 4.80 mmol, 2M, 2.4 ml | Cl | ClH
solvent | DCM | C(Cl)Cl | CH2Cl2
product | (R)-(3-Aminopiperidin-1-yl)(2-(1-(cyclopropylmethyl)-1H-pyrrolo[2,3-b]pyridin-2-yl)-7-methoxy-1-methyl-1H-benzo[d]imidazol-5-yl)methanone, hydrochloride | 2.57 g | Cl.N[C@H]1CN(CCC1)C(=O)C1=CC2=C(N(C(=N2)C2=CC=3C(=NC=CC3)N2CC2CC2)C)C(=C1)OC | InChI=1S/C26H30N6O2.ClH/c1-30-23-20(11-18(13-22(23)34-2)26(33)31-10-4-6-19(27)15-31)29-25(30)21-12-17-5-3-9-28-24(17)32(21)14-16-7-8-16;/h3,5,9,11-13,16,19H,4,6-8,10,14-15,27H2,1-2H3;1H/t19-;/m1./s1
